US04315000
A mixture of 6.0 g of 4-cyano-5-cyanomethyl-1-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)imidazole and 300 ml of dry methanol saturated at 0° C. with ammonia is kept in a steel bomb at ambient temperatures for 24 hours and then evaporated in vacuo to dryness. The residue is triturated with ether, dissolved in methanol, absorbed on silica gel, and chromatographed over silica gel with chloroform-methanol (10:1) to provide 4.0 g of 4,6-diamino-1-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)imidazo[4,5-c]pyridine.

reactant | 4-cyano-5-cyanomethyl-1-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)imidazole | 6.0 g | C(#N)C=1N=CN(C1CC#N)[C@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C32H30N4O4
reactant | ammonia | N | H3N
solvent | methanol | 300 ml | CO | CH4O
product | 4,6-diamino-1-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)imidazo[4,5-c]pyridine | 4.0 g | NC1=NC(=CC2=C1N=CN2[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2)N | C32H33N5O4
